US07186724B2
4-(7-Methoxy-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester (MDL 831478).
To a room temperature mixture of 4-[(2-Fluoro-3-methoxy-phenyl)-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester (5.00 g, 14.2 mmol) in THF (50 mL) under nitrogen was added potassium tert-butoxide (15.0 mL of a 1M THF solution, 15.0 mmol) rapidly and the reaction refluxed for 4 h. After cooling to room temperature, the reaction was diluted with ethyl acetate (250 mL) and washed with water (100 mL) and brine (100 mL) successively. The organics were dried over magnesium sulfate, filtered, and concentrated to give a waxy solid. Recrystallization of the solid did not remove impurities so the crude product was chromatographed on silica using a step gradient elution of 10% ethyl acetate/dichloromethane to 40% ethyl acetate/dichloromethane to afford 3.04 g (64%) of the desired product as a white powder, mp:130–132° C.

reactant | 4-[(2-Fluoro-3-methoxy-phenyl)-hydroxyimino-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 14.2 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=NO)C1=C(C(=CC=C1)OC)F | C18H25FN2O4
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 1M | C1CCOC1 | C4H8O
product | 4-(7-Methoxy-benzo[d]isoxazol-3-yl)-piperidine-1-carboxylic acid tert-butyl ester | 3.04 g, 64% | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NOC2=C1C=CC=C2OC | C18H24N2O4
